US04861891
2-(3,4-Dichlorophenoxy)nicotinic Acid
Sodium hydride dispersion, 60% by weight (2.54 grams, 63.47 mmol) is placed into a 125 ml round bottom flask equipped with a stir bar and condenser under nitrogen and is charged with 32 ml of dimethyl formamide. 3,4-Dichlorophenol (5.17 grams, 31.73 mmol) is added portionwise over five minutes. During this addition, an exotherm and vigorous gas evolution are observed. The reaction is allowed to stir for five minutes. 2-Chloronicotinic acid (5.00 grams, 31.73 mmol) is then added portionwise over five minutes. When gas evolution subsides, the reaction is heated to reflux for 21 hours. It is then cooled to room temperature and 300 ml of water added. The aqueous layer is extracted with diethyl ether (3×200 ml), then pH adjusted to acidic with glacial acetic acid and stirred. After 2 hours, the precipitate which has formed is filtered and washed with (3×100 ml) water then (3×100 ml) pentane to yield 1.78 grams (19.8%) of product as a tan crystalline solid.

reactant | Sodium hydride | [H-].[Na+]
reactant | dimethyl formamide | 32 ml | CN(C=O)C | C3H7NO
reactant | 3,4-Dichlorophenol | 31.73 mmol, 5.17 grams | ClC=1C=C(C=CC1Cl)O | C6H4Cl2O
reactant | 2-Chloronicotinic acid | 31.73 mmol, 5.00 grams | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
solvent | water | 300 ml | O | H2O
product | 2-(3,4-Dichlorophenoxy)nicotinic Acid | 1.78 grams, 19.8% | ClC=1C=C(OC2=C(C(=O)O)C=CC=N2)C=CC1Cl | C12H7Cl2NO3
